US05162354
Preparation of 3-Chloro-5-bromomethyl-2-oxazolidinone (Compound 4)
3.86 grams (0.0166 moles) trichlorocyanuric acid and 1.79 grams (0.0166 moles) 5-bromomethyl-2-oxazolidinone are added to MeCl2 and stirred overnight at room temperature. The reaction mix was dried over magnesium sulfate and rotovaped. Proton NMR Data: δ3.9(m, 4 protons]5.1(m, 1 proton).

reactant | trichlorocyanuric acid | 0.0166 moles, 3.86 grams | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | 5-bromomethyl-2-oxazolidinone | 0.0166 moles, 1.79 grams | BrCC1CNC(O1)=O | C4H6BrNO2
solvent | MeCl2 | C(Cl)Cl | CH2Cl2
product | 3-Chloro-5-bromomethyl-2-oxazolidinone | ClN1C(OC(C1)CBr)=O | C4H5BrClNO2
